US07459448B2
4-(9-Chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-benzoic acid (I-3)
In a manner similar to method I (DMF and NaHCO3 were used in place of EtOH and K2CO3), 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and 4-guanidinobenzoic acid were converted to I-3 (68%): HRMS Calcd. for C19H13ClN4O3: 381.0754, Found 381.0721.

reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | 4-guanidinobenzoic acid | N(C(=N)N)C1=CC=C(C(=O)O)C=C1 | C8H9N3O2
solvent | EtOH | CCO | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(9-Chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-benzoic acid | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC=C(C(=O)O)C=C3)=O)C1 | C19H13ClN4O3
